US04870076
2-[2-(2,5-Dichlorobenzenesulphonylamino)-ethyl]-1-methylpyrrol
Prepared from 2-(2-aminoethyl)-1-methylpyrrol and 2,5-dichlorobenzenesulphonylchloride analogously to Example A.

reactant | 2-(2-aminoethyl)-1-methylpyrrol | NCCC=1N(C=CC1)C | C7H12N2
reactant | 2,5-dichlorobenzenesulphonylchloride | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 2-[2-(2,5-Dichlorobenzenesulphonylamino)-ethyl]-1-methylpyrrol | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)NCCC=1N(C=CC1)C | C13H14Cl2N2O2S
